US04282233
A. 11-(N-Carboethoxy-4-piperidylidene)-6,11-dihydro-5H-benzo-[5,6]-cyclohepta-[1,2-b]-pyridine
To a solution of 10.9 g (0.1 mole) of ethylchloroformate in 300 ml. of anhydrous benzene is added dropwise, with stirring at room temperature, a solution of 14.5 g (0.05 M) of 11-(N-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo-[5,6]-cyclohepta-[1,2-b]-pyridine (Compound IA) in 200 ml of benzene. The solution is stirred and is heated under reflux overnight (16-20 hrs.). The mixture is cooled and is poured into ice water and the organic layer is separated, washed with water, dried, and then concentrated to dryness. The residue is triturated with petroleum ether and a white solid having a melting point of 106°-107° C. is recrystallized from isopropyl ether after decolorization with decolorizing carbon.

reactant | ethylchloroformate | 0.1 mole, 10.9 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | 11-(N-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo-[5,6]-cyclohepta-[1,2-b]-pyridine | 0.05 M, 14.5 g | CN1CCC(CC1)=C1C2=C(CCC=3C1=NC=CC3)C=CC=C2 | C20H22N2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 11-(N-Carboethoxy-4-piperidylidene)-6,11-dihydro-5H-benzo-[5,6]-cyclohepta-[1,2-b]-pyridine | C(=O)(OCC)N1CCC(CC1)=C1C2=C(CCC=3C1=NC=CC3)C=CC=C2 | C22H24N2O2
